US06369235B1
2-(2,6-difluorophenyl)-4-nitrobenzimidazole (7.7 g, 28 mmol) was reacted with 2,6-difluorobenzylbromide (6.95 g, 33.6 mmol). The crude product was purified by recrystallization from diethylether:hexane (3:1), 9.8 g (24.4 mmol, 87%), yielding white crystals 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)-4-nitrobenzimidazole. M.p. 168-170° C. 1H-NMR (300 MHz, CD2Cl2): δ8.13 (dd, J=8.1, 0.9 Hz, 1H, H5), 7.86 (dd, J=8.1, 0.9 Hz, 1H, H7), 7.59 (m, 1H, H4′), 7.43 (dd, J=8.1 Hz, H6), 7.28 (m, 1H, H4″), 7.12 (m, 2H, H3′,5′), 6.84 (m, 2H, H3″,5″), 5.44 (s, 2H, CH2).

reactant | 2-(2,6-difluorophenyl)-4-nitrobenzimidazole | 28 mmol, 7.7 g | FC1=C(C(=CC=C1)F)C=1NC2=C(N1)C=CC=C2[N+](=O)[O-] | C13H7F2N3O2
reactant | 2,6-difluorobenzylbromide | 33.6 mmol, 6.95 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
product | 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)-4-nitrobenzimidazole | FC1=C(CN2C(=NC3=C2C=CC=C3[N+](=O)[O-])C3=C(C=CC=C3F)F)C(=CC=C1)F | C20H11F4N3O2
